US07517910B2
(4-{[3-tert-butyl-5-(phenoxymethyl)-1H-pyrazol-1-yl]methyl}phenyl)methanol
A mixture of 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl)-5-(phenoxymethyl)-1H-pyrazole (1.66 g, 4.21 mmol), concentrated hydrochloric acid (0.2 mL) and methanol (20 mL) was refluxed overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (1.35 g, yield 91%) as a colorless oil.

reactant | 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl)-5-(phenoxymethyl)-1H-pyrazole | 4.21 mmol, 1.66 g | C(C)(C)(C)C1=NN(C(=C1)COC1=CC=CC=C1)CC1=CC=C(C=C1)COCOC | C24H30N2O3
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
solvent | Water | O | H2O
product | (4-{[3-tert-butyl-5-(phenoxymethyl)-1H-pyrazol-1-yl]methyl}phenyl)methanol | 1.35 g, yield 91% | C(C)(C)(C)C1=NN(C(=C1)COC1=CC=CC=C1)CC1=CC=C(C=C1)CO | C22H26N2O2
